US06559162B2
1-Cyano-1-methylethyl 1H-Imidazole-1-carboxlate
A mixture of 1,1′-carbonyldiimidazole (5 g, 31 mmol) and 2-hydroxy-2-methylpropanenitrile (2.6 g, 31 mmol) in DCM was stirred at rt overnight. Water was added and the organic layer was separated, dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by chromatography on silica gel, eluting with ethyl acetate, to give 2.7 g (50%) of the title compound.

reactant | 1,1′-carbonyldiimidazole | 31 mmol, 5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-hydroxy-2-methylpropanenitrile | 31 mmol, 2.6 g | OC(C#N)(C)C | C4H7NO
reactant | Water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-Cyano-1-methylethyl 1H-Imidazole-1-carboxlate | 2.7 g, 50% | N1(C=NC=C1)C(=O)OC(C)(C)C#N | C8H9N3O2
